2123-02-23 07:18:00 Physician Resident Progress Note
Chief Complaint: Chest pain (hyperglycemia and hyperkalemia on
   admission)
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2123-2-22**] 01:00 PM
 INVASIVE VENTILATION - START [**2123-2-22**] 01:00 PM
   from er
 NASAL SWAB - At [**2123-2-22**] 01:30 PM
 EKG - At [**2123-2-22**] 02:00 PM
 ARTERIAL LINE - START [**2123-2-22**] 03:30 PM
   - Insulin gtt started at 10, then to 15 with two boluses of 10 units.
   - Added lyspro 10 units after gtt off
   - Urine output briefly fell to 15 mL/hr, so bloused 500 cc NS.
   - On the floor gave 2 L NS, then 1 L 40 mEq KCl in [**11-28**] NS, then 500 cc
   NS, then 1 L 40 mEq KCl in [**11-28**] NS
   - Was agitated in context of moving him and re-dressing IJ (despite
   propofol infusion at 80 with 30 bolus). Continued to struggle,
   therefore switched to Fent. Versed from propofol.
   - Placed [**Name (NI) 1950**]
   - Friend [**Name (NI) 12259**] called around 20:00 to ask about how he is doing - by
   that stage K WNLs and glucose in 200s.
   - Has been combative overnight, so Versed increased around 5 a.m. from
   6 to 8.
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Insulin - Regular - [**2123-2-22**] 03:15 PM
   Midazolam (Versed) - [**2123-2-22**] 07:00 PM
   Heparin Sodium (Prophylaxis) - [**2123-2-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-23**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 81 (63 - 81) bpm
   BP: 125/64(83) {104/59(74) - 159/82(101)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.5 kg (admission): 94 kg
             Total In:
                                                                  3,134 mL
                                                                  1,414 mL
   PO:
             TF:
   IVF:
                                                                  3,134 mL
                                                                  1,414 mL
   Blood products:
   Total out:
                                                                  1,528 mL
                                                                    760 mL
   Urine:
                                                                  1,478 mL
                                                                    460 mL
   NG:
                                                                     50 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,606 mL
                                                                    654 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.43/38/140/21/1
   Ve: 12 L/min
   PaO2 / FiO2: 350
   Physical Examination
   GENERAL: Overweight man with good self-care and of generally heathy
   constitution. Sedated, intubated, central lines, restraints x2.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple. Difficult to appreciate JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   143 K/uL
   12.1 g/dL
   103 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.3 mEq/L
   36 mg/dL
   105 mEq/L
   135 mEq/L
   34.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2123-2-22**]  01:42 PM
                             [**2123-2-22**]  02:30 PM
                             [**2123-2-22**]  02:38 PM
                             [**2123-2-22**]  04:00 PM
                             [**2123-2-22**]  04:16 PM
                             [**2123-2-22**]  05:39 PM
                             [**2123-2-22**]  08:03 PM
                             [**2123-2-23**]  01:51 AM
                             [**2123-2-23**]  06:23 AM
   WBC
   11.0
   8.7
   7.8
   6.9
   Hct
   45.4
   37.7
   35.5
   34.2
   Plt
   195
   179
   148
   143
   Cr
   1.3
   1.4
   1.5
   1.5
   TCO2
   26
   26
   26
   Glucose
   [**Telephone/Fax (3) 12289**]53
   219
   167
   103
   Other labs: PT / PTT / INR:10.4/17.1/0.9, CK / CKMB /
   Troponin-T:198/8/, Lactic Acid:2.2 mmol/L, Albumin:3.6 g/dL, LDH:255
   IU/L, Ca++:9.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: A1c 11
   Imaging: CHEST, AP: A temporary epicardial pacing wire is seen
   traversing a right
   internal jugular venous introduction sheath, with tip in the body of
   the right
   ventricle. An endotracheal tube terminates 4 cm above the carina. There
   is no pneumothorax. Mild pulmonary edema and small left pleural
   effusion are present. The cardiomediastinal and hilar contours are
   normal.
   IMPRESSION: RV pacing wire placement, without complications. Mild
   pulmonary
   edema.
   Microbiology: None.
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 BRADYCARDIA
   This man presents after experiencing chest pain, with the EMS
   subsequently finding him bradycardic and hypotensive. He appears to
   have developed complete heart block. He was in a hyperosmolar, (likely)
   non-ketotic hyperglycemic state. We hypothesize that this hyperglycemia
   resulted in dramatic hyperkalemia and some hyponatremia, which in turn
   resulted in heart block and junctional rhythm, hypotension and his
   collapse.
   .
   # Complete heart block.
   Etiology as described above. Other major differential would be
   infarctive, also consistent with otherwise unexplained chest pain, but
   EKG and enzymes not consistent with infarction. Toxicology  has broadly
   been negative, with metoprolol still pending.
   - Evaluate for ischemia/infarction (see below)
   - Correct laboratory abnormalities (see below) and follow telemetry and
   EKG.
   - F/u toxicology for metoprolol
   - Continue to pace transvenously with lower threshold now in sinus
   rhythm
   - [**Month (only) 8**] need PPM depending on etiology
 unlikely given probably related
   to electrolyte disturbance
   .
   # Hyperkalemia.
   Likely secondary to acute on chronic (as suggested by A1c)
   hyperglycemia. Reduced by insulin/correction of K. [**Month (only) 8**] be total body
   depleted.
   - Insulin sliding scale and 10 units glargine QHS
   - No Kayexelate
   - Continue to supplement potassium as necessary with goal 4
   - TID chemistry for now
   .
   # Respiratory status.
   Sedated and intubated. Presently on AC (40%, 550 cc, 14 BPM, PEEP 5 cm
   H2O). Indication for intubation was combativeness in ED. No indication
   at present, particularly given presenting state resolving.
   - Continue until stable lab values then wean sedation and extubate.
   .
   # Coronary Artery Disease
   Two vessel disease, likely without stents. Ischemic etiology possible,
   particularly if sinus node infarcted. However, enzymes are presently
   flat. LVEF 55% in [**2117**], but may be less now.
   - Cycle enzymes, with one more set
   - Monitor with telemetry
   - Repeat 12 lead EKG
   - Appears to have been on aspirin previously - will restart
   - Restart statin
   - Consider outpatient stress test in future if it is determined that
   heart block was provoked
   - Likely no need for echo at present (as on previous plan)
   .
   # Hypertension
   Hypotensive on arrival. Hypotension seemed somewhat out of proportion
   to bradycardia. Possible that arrhythmic state was missed. Paced and
   hypertensive early, with some resolution of hypertension when pacing
   reduced and developed sinus rhythm. Now hypertensive when sedation
   weaned. Likely hypertension at baseline, but no clear use of
   antihypertensive. Will aim for SBP > 110, given risk of cerebral
   hypoperfusion in this patient who is likely hypertensive at baseline.
   - Hydralazine 10 mg IV q2h prn for SBP > 160 mm Hg
   - Watch today and begin ongoing antihypertensives after extubation.
   .
   # Diabetes/Non-ketotic hyperglycemia hyperosmolar state (326 mOsms)
   Secondary to very poorly controlled hyperglycemia of diabetes II. [**Month (only) 8**]
   have been elevated for some time, per PCP, [**Name10 (NameIs) 543**] now dramatic enough to
   become symptomatic. A1c consistent with chronic high hyperglycemia.
   Hemoglobin glycosylation is time dependent, so A1c should reflect poor
   control and chronicity more than this acute event.
   - Continue to adjust standing insulin (now glargine 10 mg QHS) and use
   ISS
   - Continue to replete K as necessary
   .
   # Acute Renal Failure
   Interestingly, patient creatinine at admission was 0.7,  later the same
   day, was 1.3, now 1.5. Seems likely that there was acute injury in
   context of hypotension, but rapid accumulation of creatinine
   impressive. UOP dropped off yesterday to < 15 cc/hr, but now output is
   impressive
 possible ATN. Proteinuria c/w poorly controlled diabetic
   kidney disease.
   - Follow urine Osms and lytes.
   - Microscopy for signs of ATN
   .
   FEN:
   No diet until hyperK and hyperGly resolved, then tube feeds.
   .
   ACCESS: A-line, IJ CVL, cordis (femoral), OG
   .
   PROPHYLAXIS:
   -
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: Glargine 10
   QPM
   Lines:
   Cordis/Introducer - [**2123-2-22**] 01:00 PM
   18 Gauge - [**2123-2-22**] 01:00 PM
   Arterial Line - [**2123-2-22**] 03:30 PM
   20 Gauge - [**2123-2-22**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) 12301**].
   I would add the following remarks:
   History
   Extubated today but remains disoriented and agitated
   Diabetic ketoacidosis resolved
   Medical Decision Making
   Continue supportive care and re-institute cardiac medications
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2123-2-23**] 21:25 ------

2123-02-24 07:44:00 Physician Resident Progress Note
Chief Complaint: Dizziness/CP/heart block
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-2-23**] 10:57 AM
   from er
 BLOOD CULTURED - At [**2123-2-23**] 08:00 PM
 URINE CULTURE - At [**2123-2-23**] 08:00 PM
 FEVER - 101.8
F - [**2123-2-23**] 08:00 PM
   [**2-23**] - 31
   - restarted HCTZ, but did not start lisinopril given hyperkalemia
   - Pacemaker wire removed
   - hypertensive and tachycardic and concern for withdrawal, but pt
   denies any hx of benzo or alcohol use - although question still if he
   self prescribes
   - started CIWA with valium for CIWA > 10 ...5 mg x 2, 10 mg x 6 as well
   as 1 mg haldol x 2 for agitation
   - started labetolol 10 mg X 6 hr PRN with extra dose 3 am
   - gave lopressor 5 mg IV
   - spiked temperature to 101.8 -> cultured, CXR showed no evidence of
   pna
   -- started ceftriaxone/azithromycin
   - need to call pharmacy during day time to confirm he has not been
   taking benzos (he denies)
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-2-23**] 12:50 PM
   Haloperidol (Haldol) - [**2123-2-24**] 12:51 AM
   Hydralazine - [**2123-2-24**] 01:30 AM
   Labetalol - [**2123-2-24**] 03:25 AM
   Metoprolol - [**2123-2-24**] 05:21 AM
   Diazepam (Valium) - [**2123-2-24**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-24**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100
   HR: 99 (80 - 114) bpm
   BP: 120/89(103) {112/56(74) - 198/93(120)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.5 kg (admission): 94 kg
             Total In:
                                                                  2,668 mL
                                                                    165 mL
   PO:
             TF:
   IVF:
                                                                  2,668 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                  1,610 mL
   Urine:
                                                                  3,140 mL
                                                                  1,610 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -772 mL
                                                                 -1,446 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: 7.49/31/95.[**Numeric Identifier 252**]/22/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   122 K/uL
   12.6 g/dL
   197 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   20 mg/dL
   103 mEq/L
   135 mEq/L
   37.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2123-2-22**]  04:16 PM
                             [**2123-2-22**]  05:39 PM
                             [**2123-2-22**]  08:03 PM
                             [**2123-2-23**]  01:51 AM
                             [**2123-2-23**]  06:23 AM
                             [**2123-2-23**]  08:04 AM
                             [**2123-2-23**]  01:03 PM
                             [**2123-2-23**]  07:51 PM
                             [**2123-2-24**]  02:27 AM
                             [**2123-2-24**]  06:30 AM
   WBC
   7.8
   6.9
   8.2
   8.4
   Hct
   35.5
   34.2
   34.2
   37.8
   Plt
   148
   143
   145
   122
   Cr
   1.5
   1.5
   1.5
   1.2
   1.2
   1.2
   TropT
   0.04
   TCO2
   26
   26
   22
   24
   Glucose
   353
   219
   167
   103
   130
   168
   146
   197
   Other labs: PT / PTT / INR:11.4/24.6/0.9, CK / CKMB /
   Troponin-T:52/8/0.04, ALT / AST:45/29, Alk Phos / T Bili:67/0.6,
   Amylase / Lipase:58/98, Fibrinogen:534 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.1 g/dL, LDH:212 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR AP [**2123-2-22**]
   CHEST, AP: A temporary epicardial pacing wire is seen traversing a
   right
   internal jugular venous introduction sheath, with tip in the body of
   the right
   ventricle. An endotracheal tube terminates 4 cm above the carina. There
   is no pneumothorax. Mild pulmonary edema and small left pleural
   effusion are present. The cardiomediastinal and hilar contours are
   normal.
   IMPRESSION: RV pacing wire placement, without complications. Mild
   pulmonary
   edema.
   Microbiology: [**2123-2-24**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2123-2-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2123-2-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2123-2-23**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2123-2-22**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2123-2-22**]  URINE URINE CULTURE-FINAL INPATIENT
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DIABETIC KETOACIDOSIS (DKA)
 BRADYCARDIA
   This man presents after experiencing chest pain, with the EMS
   subsequently finding him bradycardic and hypotensive. He appears to
   have developed complete heart block. He was in a hyperosmolar, (likely)
   non-ketotic hyperglycemic state. We hypothesize that this hyperglycemia
   resulted in dramatic hyperkalemia and some hyponatremia, which in turn
   resulted in heart block and junctional rhythm, hypotension and his
   collapse.
   .
   # Altered mental status: Alcohol vs benzo withdrawl on the ddx although
   tox negative, does not [**Doctor Last Name 12312**] out as pt risk given being [**Name8 (MD) **] MD. [**First Name (Titles) **]
[**Last Name (Titles) 12313**]ion given fever, CXR, U/A, blood cx NGTD.
   -          Pscyh consult
   -          CIWA with valium prn
   -          Haldol for intractable agitation
   -          Daily EKGs
   # Complete heart block.
   Etiology as described above. Other major differential would be
   infarctive, also consistent with otherwise unexplained chest pain, but
   EKG and enzymes not consistent with infarction. Toxicology  has broadly
   been negative, with metoprolol still pending.
   - Evaluate for ischemia/infarction (see below)
   - Correct laboratory abnormalities (see below) and follow telemetry and
   EKG.
   - F/u toxicology for metoprolol
   - Continue to pace transvenously with lower threshold now in sinus
   rhythm
   - [**Month (only) 8**] need PPM depending on etiology
 unlikely given probably related
   to electrolyte disturbance
   .
   # Hyperkalemia.
   Likely secondary to acute on chronic (as suggested by A1c)
   hyperglycemia. Reduced by insulin/correction of K. [**Month (only) 8**] be total body
   depleted.
   - Insulin sliding scale and 10 units glargine QHS
   - No Kayexelate
   - Continue to supplement potassium as necessary with goal 4
   - TID chemistry for now
   .
   # Respiratory status.
   Sedated and intubated. Presently on AC (40%, 550 cc, 14 BPM, PEEP 5 cm
   H2O). Indication for intubation was combativeness in ED. No indication
   at present, particularly given presenting state resolving.
   - Continue until stable lab values then wean sedation and extubate.
   .
   # Coronary Artery Disease
   Two vessel disease, likely without stents. Ischemic etiology possible,
   particularly if sinus node infarcted. However, enzymes are presently
   flat. LVEF 55% in [**2117**], but may be less now.
   - Cycle enzymes, with one more set
   - Monitor with telemetry
   - Repeat 12 lead EKG
   - Appears to have been on aspirin previously - will restart
   - Restart statin
   - Consider outpatient stress test in future if it is determined that
   heart block was provoked
   - Likely no need for echo at present (as on previous plan)
   .
   # Hypertension
   Hypotensive on arrival. Hypotension seemed somewhat out of proportion
   to bradycardia. Possible that arrhythmic state was missed. Paced and
   hypertensive early, with some resolution of hypertension when pacing
   reduced and developed sinus rhythm. Now hypertensive when sedation
   weaned. Likely hypertension at baseline, but no clear use of
   antihypertensive. Will aim for SBP > 110, given risk of cerebral
   hypoperfusion in this patient who is likely hypertensive at baseline.
   - Hydralazine 10 mg IV q2h prn for SBP > 160 mm Hg
   - Watch today and begin ongoing antihypertensives after extubation.
   .
   # Diabetes/Non-ketotic hyperglycemia hyperosmolar state (326 mOsms)
   Secondary to very poorly controlled hyperglycemia of diabetes II. [**Month (only) 8**]
   have been elevated for some time, per PCP, [**Name10 (NameIs) 543**] now dramatic enough to
   become symptomatic. A1c consistent with chronic high hyperglycemia.
   Hemoglobin glycosylation is time dependent, so A1c should reflect poor
   control and chronicity more than this acute event.
   - Continue to adjust standing insulin (now glargine 10 mg QHS) and use
   ISS
   - Continue to replete K as necessary
   .
   # Acute Renal Failure
   Interestingly, patient creatinine at admission was 0.7,  later the same
   day, was 1.3, now 1.5. Seems likely that there was acute injury in
   context of hypotension, but rapid accumulation of creatinine
   impressive. UOP dropped off yesterday to < 15 cc/hr, but now output is
   impressive
 possible ATN. Proteinuria c/w poorly controlled diabetic
   kidney disease.
   - Follow urine Osms and lytes.
   - Microscopy for signs of ATN
   .
   FEN:
   No diet until hyperK and hyperGly resolved, then tube feeds.
   .
   ACCESS: A-line, IJ CVL, cordis (femoral), OG
   .
   PROPHYLAXIS:
   -
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: Glargine 10
   QPM
   Lines:
   Cordis/Introducer - [**2123-2-22**] 01:00 PM
   18 Gauge - [**2123-2-22**] 01:00 PM
   Arterial Line - [**2123-2-22**] 03:30 PM
   20 Gauge - [**2123-2-22**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2123-02-25 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2123-2-24**] 09:15 AM
 CORDIS/INTRODUCER - STOP [**2123-2-25**] 06:43 AM
 FEVER - 101.5
F - [**2123-2-25**] 12:00 AM
   - Agitation persisted but not as significant as prior
   - Psych recommended DC'ing benzodiazapines as did not suspect
   withdrawal
 also friend says no suspicion and labs not consistent with
   alcohol use.
   - Mental status improved.
   - Continued Haldol PRN agitation
   - HTN resolved after labetolol
   - this am pulled out EJ
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2123-2-24**] 08:40 AM
   Azithromycin - [**2123-2-24**] 10:19 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2123-2-25**] 12:26 AM
   Labetalol - [**2123-2-25**] 01:12 AM
   Heparin Sodium (Prophylaxis) - [**2123-2-25**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-25**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.8
   HR: 107 (95 - 110) bpm
   BP: 172/91(109) {108/53(69) - 172/101(112)} mmHg
   RR: 26 (7 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.5 kg (admission): 94 kg
             Total In:
                                                                  2,160 mL
                                                                    501 mL
   PO:
             TF:
   IVF:
                                                                  2,160 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                    675 mL
   Urine:
                                                                  3,940 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,780 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Overweight man agitated but also sedated, with restraints x2.
   Trying to take off his clothing
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple. Difficult to appreciate JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   138 K/uL
   11.6 g/dL
   199 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   102 mEq/L
   137 mEq/L
   35.0 %
   7.3 K/uL
        [image002.jpg]
                             [**2123-2-23**]  01:51 AM
                             [**2123-2-23**]  06:23 AM
                             [**2123-2-23**]  08:04 AM
                             [**2123-2-23**]  01:03 PM
                             [**2123-2-23**]  07:51 PM
                             [**2123-2-24**]  02:27 AM
                             [**2123-2-24**]  06:30 AM
                             [**2123-2-24**]  02:24 PM
                             [**2123-2-25**]  02:07 AM
                             [**2123-2-25**]  04:59 AM
   WBC
   7.8
   6.9
   8.2
   8.4
   6.1
   7.3
   Hct
   35.5
   34.2
   34.2
   37.8
   35.6
   35.0
   Plt
   148
   143
   145
   122
   122
   138
   Cr
   1.5
   1.5
   1.2
   1.2
   1.2
   1.2
   1.1
   TropT
   0.04
   TCO2
   22
   24
   Glucose
   103
   130
   168
   146
   197
   170
   199
   Other labs: PT / PTT / INR:11.5/19.7/1.0, CK / CKMB /
   Troponin-T:806/6/0.04, ALT / AST:38/47, Alk Phos / T Bili:62/0.5,
   Amylase / Lipase:58/68, Differential-Neuts:78.2 %, Lymph:10.7 %,
   Mono:8.9 %, Eos:2.0 %, Fibrinogen:627 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:3.4 g/dL, LDH:215 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   This man presents after experiencing chest pain, with the EMS
   subsequently finding him bradycardic and hypotensive. He appears to
   have developed complete heart block. He was in a hyperosmolar, (likely)
   non-ketotic hyperglycemic state. We hypothesize that this hyperglycemia
   resulted in dramatic hyperkalemia and some hyponatremia, which in turn
   resulted in heart block and junctional rhythm, hypotension and his
   collapse.
   # Altered mental status:
   Vastly improved today. Likely encephalopathy from sedation (occurs in
   30%^ patients with intubation and sedation). Appears not to have
   sustained hypoxic injury
 impression based on exam. Mental status will
   likely continue to improve.
   - Minimize psychotropics
 stop Haldol and continue on PRN basis only
   - Stop CIWA
   - Haldol for intractable agitation, with caution
   - Daily EKGs to monitor QTc
   # CAP:
   Patchy LLL opacity on wetread and with fever and purulent sputum would
   be concerned for CAP. Periintubation. Poor inspiratory film. No
   leukocytosis, but did have brief fever.. CXR possible fluid. Will
   follow closely. Clinical exam not consistent with PNA
 will follow
   closely. Nonetheless, will continue Rx for CAP.
   - F/u CXR final read
   - Continue azithromycin
   - Switch ceftriaxone to cefpodoxime.
   - F/u sputum cx
   Thrombocytopenia: Mild, possibly secondary to HSC vs acute infection
   per above.
   - Monitor platelets
   - If continues to fall will DC sub cutaneous heparin
   # Complete heart block. Resolved. Most likely in the setting of
   hyperkalemia, which can cause AV blocks.
   Etiology as described above. Other major differential would be
   infarctive, also consistent with otherwise unexplained chest pain, but
   EKG and enzymes not consistent with infarction therefore unlikely. BB
   tox screen unable to be added on.
   - Monitor tele
   .
   # Hyperkalemia. Resolved.
   - Monitor
   .
   # Coronary Artery Disease: no active issues.
   - Continue asa and statin
   .
   # Hypertension: Pt with baseline hypertension. Having acute
   hypertension to 180s this AM most likely [**12-29**] agitation.
   - started metoprolol tartrate 25 mg [**Hospital1 **]
   - Would avoid hydralazine prn htn given the tendency to cause reflex
   tachycardia
   - will obtain rx info from pharmacy regarding pt
s home BP meds
   .
   # Diabetes/Non-ketotic hyperglycemia hyperosmolar state (326 mOsms):
   Resolved for now.
   .
   # Acute Renal Failure: Resolved.
   .
   FEN:
   Regular diabetic diet
   .
   ACCESS: THERE IS NO ACCESS AT PRESENT  - WILL GET PIV
   .
   PROPHYLAXIS:
 DELIRIUM / CONFUSION
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DIABETIC KETOACIDOSIS (DKA)
 BRADYCARDIA
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:
   Lines: none
   Prophylaxis:
   DVT: sub Q hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: call out to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) 12333**].
   I would add the following remarks:
   History
   Much less confused this AM
 oriented and able to ask coherent
   questions
   Temperature spike to 101.5
 no obvious source and will continue
   antibiotics for presumed pneumonia.
   Medical Decision Making
   [**Month (only) 8**] transfer to floor later today
 will reculture for recurrent
   temperature spike
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2123-2-25**] 21:03 ------